US04356302
To a solution of 1 part 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one in 25 parts of concentrated hydrochloric acid is added 25 parts methanol. The solution is warmed to the mean boiling point of the alcohol. Another 50 parts of methanol is added and heating continued until nearly all the solid material is dissolved. The hot solution is filtered to remove undissolved solids and upon concentrating the solution volume of filtrate in a suction flask, yellow needles of 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3-ol hydrochloride result, melting above 300° C.

reactant | 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one | ClC1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C17H11ClN2OS
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3-ol hydrochloride | Cl.ClC1=CC=C(C=C1)C1=C(N=CC=2SC3=C(NC21)C=CC=C3)O | InChI=1S/C17H11ClN2OS.ClH/c18-11-7-5-10(6-8-11)15-16-14(9-19-17(15)21)22-13-4-2-1-3-12(13)20-16;/h1-9,20H,(H,19,21);1H
